US07977358B2
(R)-Pyrrolidin-3-yl-(tetrahydro-pyran-4-yl)-carbamic acid tert-butyl ester
To a solution of (R)-1-benzyl-pyrrolidin-3-ylamine (1.0 g, 6 mmol), tetrahydro-4H-pyran-4-one (0.6 g, 6 mmol) in CH2Cl2 (15 ml) was added acetic acid (0.7 ml, 11 mmol) and sodium triacetoxyborohydride (1.4 g, 7 mmol) and the reaction stirred for 1 h. The mixture was then washed with saturated NaHCO3 and dried (Na2SO4). Boc anhydride (1.3 g, 6 mmol) was then added and the reaction stirred for a further hour after which time it was partially concentrated and through a plug of silica (CH2Cl2:MeOH 95:5) and concentrated. To the residue (0.3 g, 1 mmol), cyclohexene (1 ml) in EtOH (10 ml) was added palladium hydroxide on charcoal (0.1 g) and the mixture was heated to reflux for 2 h after which time the reaction was filtered through Hyflo and concentrated to afford the title product (0.2 g, 85%) as an orange gum. MS: 271.2 (MH+)

reactant | (R)-1-benzyl-pyrrolidin-3-ylamine | 6 mmol, 1.0 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)N | C11H16N2
reactant | tetrahydro-4H-pyran-4-one | 6 mmol, 0.6 g | O1CCC(CC1)=O | C5H8O2
reactant | acetic acid | 11 mmol, 0.7 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 7 mmol, 1.4 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Boc anhydride | 6 mmol, 1.3 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | cyclohexene | 1 ml | C1=CCCCC1 | C6H10
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
solvent | EtOH | 10 ml | CCO | C2H6O
catalyst | palladium hydroxide on charcoal | 0.1 g | [OH-].[OH-].[Pd+2]
product | (R)-Pyrrolidin-3-yl-(tetrahydro-pyran-4-yl)-carbamic acid tert-butyl ester | 0.2 g, 85% | C(C)(C)(C)OC(N(C1CCOCC1)[C@H]1CNCC1)=O | C14H26N2O3
